US04024134
A solution of 2-dichloroacetoxyimino-2-(thien-2-yl)-acetyl chloride (syn-isomer) in dry methylene dichloride (6 ml of 15% solution, ca. 3 mmole.) was added, over 5 minutes, to a solution of diphenylmethyl 7β-amino-3-(1-methyltetrazol-5-ylthiomethyl)-ceph-3-em-4-carboxylate (1.24 g.) and propylene oxide (0.8 ml.) in methylene dichloride (20 ml.). After stirring for 30 minutes at 23°, aqueous sodium bicarbonate was added, and the two-phase mixture stirred for a further 30 minutes. The organic phase was separated, and washed with brine, and dried and evaporated to a foam (2.0 g.). A solution of this foam in benzene (20 ml.) was purified by chromatography on kieselgel with benzene: ethyl acetate (5:1) as eluent. Appropriate fractions were combined and evaporated in vacuo to give diphenylmethyl 7β-[2-hydroxyimino-2-(thien-2-yl)-acetamido]-3-(1-methyltetrazol-5-ylthiomethyl)-ceph-3-em-4-carboxylate as a foam (1.68 g.). A solution of this foam in trifluoroacetic acid (6 ml and anisole (1.5 ml) was kept at 23° for 5 minutes, and the solvents were removed at 40° (2 mm). The residue was dissolved in ethyl acetate (30 ml.), and the solution extracted with sodium bicarbonate solution. The alkaline extract was convered with ethyl acetate, and acidified to pH 2 with 2N-hydrochloric acid. The organic phase was separated, and washed with water, and brine, and the solvent evaporated in vacuo. The residue was dissolved in acetone, the solution treated with some charcoal and filtered through a pad of kieselguhr; the filtrate was dried and evaporated to a foam (1.085 g.). A solution of this foam in ethyl acetate was run into petroleum to give the title acid as a colourless, amorphous solid (852 mg, 71%), [α]D23 - 90° (C 0.91, acetone), λmax. (pH 6 phosphate buffer) 267.5 nm, (ε 18,000), νmax (Nujol) 3290 (NH), 1780 (β -lactam), 1720 (CO2H), and 1670 and 1530 cm.-1 (CONH), τ (DMSO-d6) values include 0.25 (NH, doublet, J 8 Hz.),. 4.14 (C-7 H, double doublet, J 4.5 and 8 Hz.), 4.79 (C-6 H, doublet, J 4.5 Hz), 6.05 (CH3).

reactant | 2-dichloroacetoxyimino-2-(thien-2-yl)-acetyl chloride | ClC(C(=O)ON=C(C(=O)Cl)C=1SC=CC1)Cl | C8H4Cl3NO3S
reactant | diphenylmethyl 7β-amino-3-(1-methyltetrazol-5-ylthiomethyl)-ceph-3-em-4-carboxylate | 1.24 g | N[C@H]1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N6O3S2
reactant | propylene oxide | 0.8 ml | C1C(C)O1 | C3H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene dichloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | ca. 3 mmole, 6 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 7β-[2-hydroxyimino-2-(thien-2-yl)-acetamido]-3-(1-methyltetrazol-5-ylthiomethyl)-ceph-3-em-4-carboxylate | ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1SC=CC1 | C29H25N7O5S3
